US05294631
A mixture of methyl 5-bromo-2-n-butyl-1-(2-chlorophenyl)methyl-1H-benzimidazole-7-carboxylate (600 mg, 1.38 mmol), tetrakis(triphenylphosphine)palladium(O) (50 mg), toluene (3 mL) and 2M sodium carbonate solution (1.5 mL) was treated with a solution of phenylboronic acid (200 mg, 1.64 mmol) in methanol (0.3 mL). The resulting mixture was vigorously stirred under an argon atmosphere and heated at 80° C. for 18 hours. The cooled reaction was diluted with methylene chloride, 2M sodium carbonate solution and a few drops of ammonium hydroxide solution. Some insolubles were filtered, the organic phase was separated, dried (magnesium sulfate) and concentrated to 0.55 g of crude product. TLC on silica with 4:1 hexane/ethyl acetate gave an Rf of 0.33 for the product; the starting material had an Rf of 0.43. The crude product was dissolved in methylene chloride, treated with activated charcoal and the filtrate was concentrated to a small volume and chilled. The separated off-white crystals were filtered to afford 0.41 g (68%) of methyl 2-n-butyl-1-(2-chlorophenyl)methyl-5-phenyl-1H-benzimidazole-7-carboxylate; mp 103°-105° C.

reactant | methyl 5-bromo-2-n-butyl-1-(2-chlorophenyl)methyl-1H-benzimidazole-7-carboxylate | 1.38 mmol, 600 mg | BrC1=CC2=C(N(C(=N2)CCCC)CC2=C(C=CC=C2)Cl)C(=C1)C(=O)OC | C20H20BrClN2O2
reactant | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
reactant | phenylboronic acid | 1.64 mmol, 200 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | charcoal | C | CH4
solvent | methanol | 0.3 mL | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
catalyst | ammonium hydroxide | a few drops | [OH-].[NH4+]
catalyst | tetrakis(triphenylphosphine)palladium(O) | 50 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
solvent | sodium carbonate | 2M, 1.5 mL | C([O-])([O-])=O.[Na+].[Na+]
product | methyl 2-n-butyl-1-(2-chlorophenyl)methyl-5-phenyl-1H-benzimidazole-7-carboxylate | 0.41 g, 68% | C(CCC)C1=NC2=C(N1CC1=C(C=CC=C1)Cl)C(=CC(=C2)C2=CC=CC=C2)C(=O)OC | C26H25ClN2O2
